US06846492B2
b) 3,4-Dihexyloxybenzaldehyde
1,2-Dihexyloxybenzene (11.14 g; 40 mmol) and N-methylformanilide (5.41 g; 40 mmol) are cooled to 0° C., and phosphorus oxychloride (6.13 g; 40 mmol) is added. Heating is then carried out for 1 hour at 25° C., followed by stirring for 4 hours at 60° C. The reaction mixture is poured onto ice and then adjusted to pH 6. Extraction is carried out with tert-butyl methyl ether (2×200 ml), and washing is carried out with NaHCO3 (2×100 ml). The organic phase is dried over Na2SO4, filtered and concentrated to dryness by evaporation.

reactant | 1,2-Dihexyloxybenzene | 40 mmol, 11.14 g | C(CCCCC)OC1=C(C=CC=C1)OCCCCCC | C18H30O2
reactant | N-methylformanilide | 40 mmol, 5.41 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | phosphorus oxychloride | 40 mmol, 6.13 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3,4-Dihexyloxybenzaldehyde | C(CCCCC)OC=1C=C(C=O)C=CC1OCCCCCC | C19H30O3
